US07247734B2
To a solution of 1-(2,4-dihydroxy-3-methyl-phenyl)-2-(4-methoxy-phenyl)-ethanone (1 eq) in anhydrous DMF was added K2CO3 (3 eq). Acetic anhydride (3 eq) was added dropwise to the solution, which was then refluxed, under nitrogen whilst stirring for 5 h. The solution was taken up in water and extracted using ethyl acetate, dried over MgSO4 and concentrated in vacuo to give 3-(4-methoxy-phenyl)-2,8-dimethyl-4H-chromene-4,7-diol as a yellow solid.

reactant | 1-(2,4-dihydroxy-3-methyl-phenyl)-2-(4-methoxy-phenyl)-ethanone | 1 eq | OC1=C(C=CC(=C1C)O)C(CC1=CC=C(C=C1)OC)=O | C16H16O4
reactant | K2CO3 | 3 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | Acetic anhydride | 3 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(4-methoxy-phenyl)-2,8-dimethyl-4H-chromene-4,7-diol | COC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1O)O)C)C | C18H18O4
